US07560473B2
Preparation of N-tosyl-2,3-dimethyl-2-butylamine (compound 38)
To a solution of 1.2 g (0.012 mole) 2,3-dimethyl-2-butylamine in 20 mL pyridine, a solution of 1.9 g (0.010 mole) tosylchloride in 20 mL pyridine was added dropwise in a glacial water bath, stirred for 3 hours in that bath and 1 hour at room temperature, then heated for 2 hours in a bath at temperature of 95-100° C. The solvent was distilled off in vacuum. Toluene was added to the residue, then distilled off the solvent in vacuum. The residue was dissolved in water and extracted with toluene (×4). The toluene extract was washed with water once, dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled off the solvent. The residue was recrystallized from isopropanol to give a colorless columnar crystal 1.1 g, mp 80-89° C., recrystallized from isopropanol once again to give a white crystal 0.8 g, mp 88-89° C. Elemental analysis for C13H21NO2S (%): Calculated C, 61.14; H, 8.29; N, 5.48. Found C, 61.11;, H, 8.37;, N, 5.55. 1H-NMR(CDCl3; ppm) 0.91(d, J=6.8 Hz, 6H, 2CH3), 1.17(s, 6H, 2CH3), 1.82(M, 1H, CH), 2.47(s, 3H, CH3), 7.32(d,J=8.0, 2H,2Ar—H), 7.82(d, J=8.0, 2H, 2Ar—H′). MS(M/z) 255 (M+), 172(B).

reactant | 2,3-dimethyl-2-butylamine | 0.012 mole, 1.2 g | CC(C)(C(C)C)N | C6H15N
reactant | tosylchloride | 0.010 mole, 1.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-tosyl-2,3-dimethyl-2-butylamine | 1.1 g | S(=O)(=O)(C1=CC=C(C)C=C1)NC(C)(C(C)C)C | C13H21NO2S
